US04654360
3-Methylsulfinylindole
Potassium persulfate (KHSO5, 55 g, 179 mmol) in water (300 ml) was slowly added to a solution of 3-methylthioindole (29.3 g, 179 mmol) in methanol (300 ml) cooled in a ice bath. One half hour after the addition was completed, water was added, the solution was saturated with sodium chloride and the product was extracted into chloroform. The extract was dried, evaporated in vacuo and the residue was crystallized from chloroform-ethyl acetate to give the title product.

reactant | Potassium persulfate | 179 mmol, 55 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | 3-methylthioindole | 179 mmol, 29.3 g | CSC1=CNC2=CC=CC=C12 | C9H9NS
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 3-Methylsulfinylindole | CS(=O)C1=CNC2=CC=CC=C12 | C9H9NOS
